Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left-sided weakness and sensory changes

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ ___ and ___
___ man with a PMHx of HTN, HL, obesity, tobacco use,
CKD, and macular degeneration who presents with left-sided
weakness and paresthesias.

He was in his USOH until 10:00am on ___ at which time 
he
noticed that his left leg felt weak, and he was having trouble
bearing weight on that leg. He also noticed that his left great
toe was painful. He did not seek medical care at that time. The
following day, at 4:00pm, he noticed that objects were dropping
out of his left hand. In particular, he felt that his thumb, 
ring
finger, and index finger were weak. The next day, on ___, he
awoke at 6:30am and notices left-sided paresthesias involving 
his
entire left face, left arm, left leg, and left torso. None of
these symptoms have remitted at the time of interview. His wife,
who was a ___ in ___, gave him 4
pills of 81mg of aspirin. He does not normally take aspirin.
After this, he thinks his symptoms may have improved but went
back to his morning baseline after lunch. He did not have a
headache, and he did not notice a facial droop or asymmetry
during this period. 

Positive: baseline blurry vision may have worsened over the last
three days. 
On neuro ROS, the pt denies headache, loss of vision, diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus, and
hearing difficulty. Denies difficulties producing or
comprehending speech. No bowel or bladder incontinence or
retention. 

On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
ATYPICAL CHEST PAIN                                             
L chest pain when nervous, angry.  ETT-MIBI negative ___.     

COLONIC POLYPS                                                  
Colonoscopy ___: multiple adenomatous polyps. ___: nl.     
___: two adenomas. Repeat ___ yr.                               

ELEVATED CREATININE                                             
Renal u/s ___ unremarkable. HTN?                           

HYPERCHOLESTEROLEMIA                                            
Lipitor.                                                        

HYPERTENSION                                                    
Atenolol.  Takes BP at home.                                    

OBESITY                                                         
___: making concerted effort and diet and exercise but weight  
stable.                                                         

TOBACCO ABUSE                                                   
1 ppd x ___ yr.  Trying to quit.                                 

WET SENILE MACULAR DEGENERATION                                 
Neovascular "wet" MD. ___. Lucentis. ___ at ___.           

CKD

HYPERKALEMIA

 
Social History:
Lives with wife. ___ ___. 1ppx x ___ years (60
pack-years). EtOH twice a week. No drugs.                        

Pre-stroke mRS
- Modified Rankin Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead 

 
Family History:
No family history of strokes, clots, MI, or neurologic 
disorders.
 
Physical Exam:
Admission exam:
Vitals: T: 97.6F P: 84 R: 16 BP: 182/90 SaO2: 99RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VF appeared full with left eye open; ___ eye
difficult to test because he can only see shadows and large
movements (cannot see colors or identify objects)
V: Facial sensation decreased to LT and PP in V1-3 on left. 
___
intact.
VII: Left facial droop.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. LUE drift with pronation. No
adventitious movements, such as tremor, noted.   
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 4   5    5-   5-   5-    5-  4-   5    5-   5-   5   5- 
 R 5   5    5    5    5     5   5    5    5    5    5   5
Others tested: EDB, FFl

-Sensory: Decreased sensation to LT, PP, and temperature in LLE
and LUE (patient declined to provide percentage or normal).
Proprioception intact at great toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Left dysmetria on FNF and HKS, irregular finger
tap, overshot on mirror testing on left (versus understanding
instructions). ___ side intact.

-Gait: Short stride, hesitant steps. Favors ___ leg.

Discharge exam:
Vitals: T: afebrile P: ___'s R: 16 BP: 130-160/90 SaO2: 99RA
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. Able to read without difficulty.
Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VF appeared full with left eye open; ___ eye
difficult to test because he can only see shadows and large
movements (cannot see colors or identify objects)
V: Facial sensation decreased to LT and PP in V1-3 on left. 
___
intact.
VII: Left facial droop.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. LUE drift with pronation. No
adventitious movements, such as tremor, noted.   
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 4   5    5-   5-   5-    5-  4-   5    5-   5-   5   5- 
 R 5   5    5    5    5     5   5    5    5    5    5   5
Others tested: EDB, FFl

-Sensory: Decreased sensation to LT, PP, and temperature in LLE
and LUE (patient declined to provide percentage or normal).
Proprioception intact at great toes.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Left dysmetria on FNF and HKS, irregular finger
tap, overshot on mirror testing on left (versus understanding
instructions). ___ side intact.

-Gait: deferred

 
Pertinent Results:
___ 06:41AM   cTropnT-<0.01
___ 09:40PM URINE  HOURS-RANDOM
___ 09:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 09:40PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:40PM URINE  MUCOUS-RARE
___ 07:56PM   ___ PTT-27.6 ___
___ 06:50PM   GLUCOSE-105* UREA N-34* CREAT-1.9* SODIUM-138 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-24 ANION GAP-16
___ 06:50PM   estGFR-Using this
___ 06:50PM   ALT(SGPT)-13 AST(SGOT)-20 ALK PHOS-73 TOT 
BILI-0.5
___ 06:50PM   LIPASE-30
___ 06:50PM   cTropnT-<0.01
___ 06:50PM   ALBUMIN-4.2 CALCIUM-9.2 PHOSPHATE-2.9 
MAGNESIUM-2.2
___ 06:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:50PM   WBC-9.8 RBC-4.57* HGB-13.9 HCT-41.6 MCV-91 
MCH-30.4 MCHC-33.4 RDW-13.8 RDWSD-46.2
___ 06:50PM   NEUTS-74.0* LYMPHS-14.8* MONOS-9.5 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-7.21* AbsLymp-1.44 AbsMono-0.93* 
AbsEos-0.09 AbsBaso-0.03
___ 06:50PM   PLT COUNT-185

CT head
1. Focal hypoattenuation and loss of gray-white matter 
differentiation in the 
___ inferior ___ occipital lobe abutting the tentorium is 
concerning for 
an infarct, the acuity of which is uncertain in MRI suggested to 
further 
characterize. 
2. Focal density matching that of the adjacent vasculature in 
the region of 
the left ACA/anterior communicating artery measuring 
approximately 5 mm 
(02:10, 601b:42) raising concern for possible underlying 
aneurysm.  
Angiographic imaging is suggested and can be done by MRA. 
3. No evidence of intracranial hemorrhage or mass effect. 
  
RECOMMENDATION(S):  MRI and MRA of the head. 

MRI/MRA head and neck
IMPRESSION: 
  
  
1. Late acute infarcts in the posterior cerebral artery 
distribution including 
the ___ posterior occipital lobe abutting the lingual gyrus as 
well as the 
___ thalamus. 
2. Occlusion of the ___ posterior cerebral artery from the P1 
segment and 
extending distally.  Apparent nonocclusive filling defect in the 
proximal 
basilar artery and distal V4 segment of the left vertebral 
artery concerning 
for thrombus given patient's distribution of infarct, although 
this could be 
secondary to artifact.  Lack of flow related signal of the 
bilateral M2 
inferior divisions, potentially secondary to artifact although 
stenosis cannot 
be excluded. 
3. Decreased flow related signal of the left P1 and P2 segments, 
which is 
either artifactual versus stenosis. 
4. Grossly unremarkable MRA neck within confines of 2D  and 3D  
time-of-flight 
technique. 

TTE
The left atrium is elongated. The ___ atrium is moderately 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
The estimated ___ atrial pressure is ___ mmHg. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is normal (LVEF>55%). ___ ventricular chamber size 
and free wall motion are normal. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Mild (1+) central aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The left ventricular 
inflow pattern suggests impaired relaxation. There is an 
anterior space which most likely represents a prominent fat pad. 


 IMPRESSION: Suboptimal image quality. Normal biventricular 
systolic function. Mildly dilated thoracic aorta with mild 
aortic regurgitation.  
 
Brief Hospital Course:
___ ___ and ___ ___ man with a PMHx 
of HTN, HL, obesity, tobacco use, CKD, and macular degeneration 
who presented with left-sided weakness and paresthesias. 
Presentation is suggestive of a ___ PCA embolism with 
subsequent fragmentation.  The source of emboli is not clear 
though he has an in situ thrombus in the proximal basilar 
artery. High suspicion that etiology is cardio embolic. MRI/MRA 
showed late acute infarcts in the posterior cerebral artery 
distribution including the ___ posterior occipital lobe 
abutting the lingual gyrus as well as the ___ thalamus. As 
well as an occlusion of the ___ posterior cerebral artery from 
the P1 segment and extending distally. Given high suspicion of 
cardio embolic source he was started on apixiban 2.5mg BID(renal 
dosing). He underwent a TTE which showed an elongated left 
atrium, no thrombus or ASD, and EF >55%.
He was discharged with ___ of heart monitor.  He was seen by ___ 
who recommended home ___. He has neuro follow up scheduled.
*************
Transitional issues:
-___   
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - () No
4. LDL documented? (x) Yes (LDL =92 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lucentis (ranibizumab) 0.5 mg/0.05 mL Other once monthly 
4. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
2.  Atenolol 25 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Lucentis (ranibizumab) 0.5 mg/0.05 mL Other once monthly  
5.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of left-sided weakness and 
paresthesias resulting from an ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
You underwent a an echo ( ultra sound of your heart) which 
showed an elongated left atrium, no thrombus, or ASD and EF>55%.
You will need ___ of heart event monitor as an outpatient.

We are changing your medications as follows:
-START apxiban 2.5mg twice daily
-Please call cardiology clinic at ___ to arrange for 
event monitor to be set up once you have a working landline. 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___